US04640913
4-(Hydroxymethyl)-2-docosanone
A mixture of about 21 g of 2-methyl-β-octadecyl-1,3-dioxolan-2-propanol in about 220 ml of acetone, about one ml of concentrated (about 12N) hydrochloric acid and about 15 ml of water was refluxed for about 20 minutes, poured into a solution of saturated sodium chloride and extracted with ether. The ether extract was washed with aqueous sodium bicarbonate, dried and the solvent removed. The residue was chromatographed via HPLC, eluting with hexane:ethyl acetate (about 9:1). The solvent was removed from the product fraction, giving about 12.3 g of the desired title compound as a white solid.

reactant | 2-methyl-β-octadecyl-1,3-dioxolan-2-propanol | about 21 g | CC1(OCCO1)CC(CO)CCCCCCCCCCCCCCCCCC | C25H50O3
solvent | acetone | about 220 ml | CC(=O)C | C3H6O
product | 4-(Hydroxymethyl)-2-docosanone | about 12.3 g | OCC(CC(C)=O)CCCCCCCCCCCCCCCCCC | C23H46O2
